US05981528
N-((5S)-3-(4-(1-tert-butoxycarbonyl-1,2,5,6-tetrahydropyrid-4-yl)phenyl)-2-oxo-oxazolidin-5-ylmethyl)acetamide
To a stirred solution of t-butyl-1,2,3,6-tetrahydro-4-(trifluoromethylsulfonyloxy)-pyridine-1-carboxylate (497 mg, Synthesis, 993 (1991)) in NMP (8 ml), was added Pd2 (dba)3 (60 mg), triphenylarsine (80 mg) and lithium chloride (166 mg), and the vessel was purged well with argon. After stirring for 5 mins. at ambient temperature, a solution of the staring material (516 mg, Refernce Example 1) in NMP (2 ml) was added and the reaction mixture stirred at ambient temperature for 18hours. TLC (ethyl acetate) indicated incomplete reaction so more t-butyl-1,2,3,6-tetrahydro-4-(trifluoromethylsulfonyloxy)pyridine-1-carboxylate (497 mg) was added and the reaction mixture was heated at 40° C. for a further 24 hours, after which the reaction was complete. A 1.0M solution of aqueous potassium fluoride (1.01 ml) was added and the reaction mixture was stirred at ambient temperature for 30 mins. Water was added and the product was extracted with ethyl acetate, with filtration of the 2 phase mixture. The organic phase was washed with water, saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and evaporated to a semi-solid gum. The product was isolated by MPLC (Merck 9385 silica, using as eluant a mixture of acetonitrile and ethyl acetate increasing in polarity from 0% to 50% acetonitrile over 15 minutes), and was crystallised by dissolving in a small volume of ethyl acetate and triturating with ether (yield=125 mg, 23%). NMR (200 MHz, DMSO-D6): δ 1.42(s,9H), 2.43(m, obscured by DMSO), 3.42(t,2H), 3.52(t,2H), 3.75(d of d.1H), 3.98(d,2H), 4.16(t,1H), 4.71(m,1H), 6.12(s,1H), 7.49(AB,4B), 8.20(t,1H). MS: ESP+ (M+H)=416.

reactant | t-butyl-1,2,3,6-tetrahydro-4-(trifluoromethylsulfonyloxy)-pyridine-1-carboxylate | 497 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)OS(=O)(=O)C(F)(F)F | C11H16F3NO5S
reactant | triphenylarsine | 80 mg | C1(=CC=CC=C1)[As](C1=CC=CC=C1)C1=CC=CC=C1 | C18H15As
reactant | lithium chloride | 166 mg | [Cl-].[Li+]
reactant | potassium fluoride | 1.01 ml | [F-].[K+]
reactant | NMP | 8 ml | CN1CCCC1=O | C5H9NO
catalyst | Pd2 (dba)3 | 60 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | N-((5S)-3-(4-(1-tert-butoxycarbonyl-1,2,5,6-tetrahydropyrid-4-yl)phenyl)-2-oxo-oxazolidin-5-ylmethyl)acetamide | C(C)(C)(C)OC(=O)N1CC=C(CC1)C1=CC=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O | C22H29N3O5
